US07700589B2
61c) 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid [(R)-1-(3,4-diethyl-benzyl)-2-(7-dimethylaminomethyl-1,2,4,5-tetrahydro-3-benzazepin-3-yl)-2-oxo-ethyl]-amide
Prepared analogously to Example 34 from (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid and dimethyl-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-ylmethyl)-amine.

reactant | (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | C(C)C=1C=C(C=CC1CC)C[C@H](C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C28H36N4O4
reactant | dimethyl-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-ylmethyl)-amine | CN(CC1=CC2=C(CCNCC2)C=C1)C | C13H20N2
product | 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid [(R)-1-(3,4-diethyl-benzyl)-2-(7-dimethylaminomethyl-1,2,4,5-tetrahydro-3-benzazepin-3-yl)-2-oxo-ethyl]-amide | C(C)C=1C=C(C[C@H](C(=O)N2CCC3=C(CC2)C=CC(=C3)CN(C)C)NC(=O)N3CCC(CC3)N3C(NC2=C(CC3)C=CC=C2)=O)C=CC1CC | C41H54N6O3
